US07790747B2
Following general procedure E: a solution of 4,6-dimethyl-pyrimidine-5-carboxylic acid (3-{4-[(thiophen-3-ylmethyl)-amino]-piperidin-1-yl}-butyl)-amide (41 mg, 0.1 mmol), 4-carboxymethyl-piperidine-1-carboxylic acid tert-butyl ester (50 mg, 0.22 mmol), EDCI (39 mg, 0.20 mmol), HOBT (27 mg, 0.20 mmol), and DIPEA (0.05 ml, 0.3 mmol) in CH2Cl2 (2 ml) was stirred overnight. Purification of the crude product by column chromatography on silica gel (CH2Cl2/MeOH, 9:1) afforded 4-{[(1-{3-[(4,6-dimethyl-pyrimidine-5-carbonyl)-amino]-1-methyl-propyl}-piperidin-4-yl)-thiophen-3-ylmethyl-carbamoyl]-methyl}-piperidine-1-carboxylic acid tert-butyl ester (50 mg, 80%).

reactant | 4,6-dimethyl-pyrimidine-5-carboxylic acid (3-{4-[(thiophen-3-ylmethyl)-amino]-piperidin-1-yl}-butyl)-amide | 0.1 mmol, 41 mg | S1C=C(C=C1)CNC1CCN(CC1)C(CCNC(=O)C=1C(=NC=NC1C)C)C | C21H31N5OS
reactant | 4-carboxymethyl-piperidine-1-carboxylic acid tert-butyl ester | 0.22 mmol, 50 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CC(=O)O | C12H21NO4
reactant | EDCI | 0.20 mmol, 39 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.20 mmol, 27 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.3 mmol, 0.05 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | 4-{[(1-{3-[(4,6-dimethyl-pyrimidine-5-carbonyl)-amino]-1-methyl-propyl}-piperidin-4-yl)-thiophen-3-ylmethyl-carbamoyl]-methyl}-piperidine-1-carboxylic acid tert-butyl ester | 50 mg, 80% | C(C)(C)(C)OC(=O)N1CCC(CC1)CC(N(CC1=CSC=C1)C1CCN(CC1)C(CCNC(=O)C=1C(=NC=NC1C)C)C)=O | C33H50N6O4S
